US07368578B2
A mixture of 3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazole-4-carbaldehyde (1.50 g), [(1-ethyl-1H-imidazol-4-yl)methyl](triphenyl)phosphonium chloride hydrochloride (2.05 g), anhydrous potassium carbonate (1.07 g) and N,N-dimethylformamide (50 mL) was stirred at room temperature for 16 hrs. To the reaction mixture were added [(1-ethyl-1H-imidazol-4-yl)methyl](triphenyl)phosphonium chloride hydrochloride (2.05 g) and anhydrous potassium carbonate (1.07 g), and the mixture was further stirred at room temperature for 16 hrs. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (1:1 to 1:0, v/v) to give an oily substance, which was then subjected to silica gel column chromatography and eluted with acetone-hexane (1:1 to 6:4, v/v) to give [4-({4-[({4-[(E)-2-(1-ethyl-1H-imidazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-2-(2-furyl)-5-methyl-1,3-oxazole as a pale-yellow oil (335 mg, yield 19%).

reactant | 3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazole-4-carbaldehyde | 1.50 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2C=O)C2=CC=CC=C2)C=C1)OC)C | C27H23N3O6
reactant | [(1-ethyl-1H-imidazol-4-yl)methyl](triphenyl)phosphonium chloride hydrochloride | 2.05 g | Cl.[Cl-].C(C)N1C=NC(=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium carbonate | 1.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
reactant | [(1-ethyl-1H-imidazol-4-yl)methyl](triphenyl)phosphonium chloride hydrochloride | 2.05 g | Cl.[Cl-].C(C)N1C=NC(=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium carbonate | 1.07 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 4-({4-[({4-[(E)-2-(1-ethyl-1H-imidazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-2-(2-furyl)-5-methyl-1,3-oxazole | 335 mg, yield 19% | C(C)N1C=NC(=C1)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=C(OCC=2N=C(OC2C)C=2OC=CC2)C=C1)OC | C33H31N5O5
